US08466282B2
6-fluoro-2-(4-methoxybutylamino)aniline
3-Fluoro-N-(4-methoxybutyl)-2-nitroaniline (2.90 g) was dissolved in methanol (50 ml), palladium-carbon (5%, 230 mg) was added, and the mixture was stirred for 3 hr under a hydrogen atmosphere. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure to give the object product (2.54 g).

reactant | 3-Fluoro-N-(4-methoxybutyl)-2-nitroaniline | 2.90 g | FC=1C(=C(NCCCCOC)C=CC1)[N+](=O)[O-] | C11H15FN2O3
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-carbon | 230 mg | [C].[Pd]
product | 6-fluoro-2-(4-methoxybutylamino)aniline | 2.54 g | FC1=CC=CC(=C1N)NCCCCOC | C11H17FN2O
